US05011839
2-Ethyl-4-chloro-5-(4-methoxy-1-naphthylmethylamino)-6-nitro-3(2H)pyridazinone (Compound No. 37)
A mixture comprising 100 mg of 4-chloro-5-(4-methoxy-1-naphthylmethylamino)-6-nitro-3(2H)pyridazinone (Compound No. 30) prepared in Preparation Example 4, 218 mg of ethyl iodide, 193 mg of potassium carbonate and 30 ml of methyl ethyl ketone, was refluxed under stirring for 1.5 hours. The reaction mixture was filtered, and the solvent of the filtrate was distilled off under reduced pressure. Water was poured to the residue thus obtained, and the mixture was extracted with benzene. The extract was washed with water and with a saturated sodium chloride aqueous solution and dried over sodium sulfate. Then, the solvent was distilled off to obtain 110 mg of the above identified compound as a slightly yellow brown caramel substance.

reactant | 4-chloro-5-(4-methoxy-1-naphthylmethylamino)-6-nitro-3(2H)pyridazinone | 100 mg | ClC=1C(NN=C(C1NCC1=CC=C(C2=CC=CC=C12)OC)[N+](=O)[O-])=O | C16H13ClN4O4
reactant | ethyl iodide | 218 mg | C(C)I | C2H5I
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | 2-Ethyl-4-chloro-5-(4-methoxy-1-naphthylmethylamino)-6-nitro-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Cl)NCC1=CC=C(C2=CC=CC=C12)OC)[N+](=O)[O-] | C18H17ClN4O4
